US04816487
5-methyl-2-hydroxy-caprophenone-(N-phenyl-carbamoyl)-oxime:
2.2 g (0.01 Mol) of 5-methyl-2-hydroxy-caprophenone-oxime are dissolved in 25 ml of toluene and may be slightly heated in this process. Then 1.2 g (0.01 Mol) of phenylisocyanate are added, with the mixture being swirled. The mixture is allowed to stay for one hour, before the solvent is evaporated under vacuum conditions causing crystallisation of residue. Colourless crystals, between 117° C. and 120° C. in flash point, are obtained by recrystallisation from ethanol or ethanol/water.

reactant | 5-methyl-2-hydroxy-caprophenone-oxime | 0.01 Mol, 2.2 g | CC(CCC(C(C1=CC=CC=C1)=NO)O)C | C13H19NO2
reactant | phenylisocyanate | 0.01 Mol, 1.2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-hydroxy-caprophenone-(N-phenyl-carbamoyl)-oxime | C1(=CC=CC=C1)NC(=O)ON=C(C(CCC(C)C)O)C1=CC=CC=C1 | C20H24N2O3
